US06723726B1
6-Cyano-pyrido[3,4-d]pyrimidin-4-one
6-Chloro-pyrido[3,4-d]pyrimidin-4one (10 g) in 1-methyl-2-pyrrolidinone (100 ml) was treated with copper (I) iodide (10.52 g) and potassium cyanide (7.10 g) at 215° C. for 72 hours under N2. Further potassium cyanide was added (3.58 g) and heating continued at 230° C. for 70 hours. The 1-methyl-2-pyrrolidinone was removed by distillation at reduced pressure and the residue absorbed onto silica. Chromatography gave the title compound (2.4 g) as a beige solid; δH [2H6]DMSO 13.0(1H,bs), 9.25 (1H,s), 8.55 (1H,s), 8.50 (1H,s); m/z (M-1+) 171.

reactant | 6-Chloro-pyrido[3,4-d]pyrimidin-4one | 10 g | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
reactant | potassium cyanide | 7.10 g | [C-]#N.[K+]
solvent | 1-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) iodide | 10.52 g | [Cu]I
product | 6-Cyano-pyrido[3,4-d]pyrimidin-4-one | 2.4 g | C(#N)C1=CC2=C(N=CNC2=O)C=N1 | C8H4N4O
